US07612204B2
[Step 1] Synthesis of 9-phenylanthracene
25.4 g (100 mmol) of 9-bromoanthracene, 12.8 g (105 mmol) of phenylboronic acid, 0.233 g (1.00 mmol) of palladium(II) acetate, and 0.913 g (3.00 mmol) of tri(ortho-tolyl)phosphine were put into a 500 mL three-neck flask, and nitrogen substitution in the flask was carried out. Then, 100 mL of ethylene glycol dimethyl ether (abbreviation: DME) and 75 ml (150 mmol) of a potassium carbonate aqueous solution (2.0 mol/L) were added to this mixture. This solution was refluxed under a nitrogen gas stream at 90° C. for 6 hours. After completion of a reaction, a precipitate in the reaction mixture was collected by suction filtration. When an obtained solid was recrystallized with a mixed solvent of chloroform and hexane, 20.8 g of a white, powdery solid of 9-phenylanthracene, which was a target matter, was obtained with the yield of 82%.

reactant | 9-bromoanthracene | 100 mmol, 25.4 g | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | phenylboronic acid | 105 mmol, 12.8 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | tri(ortho-tolyl)phosphine | 3.00 mmol, 0.913 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | 150 mmol, 2.0 mol/L, 75 ml | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(II) acetate | 1.00 mmol, 0.233 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethylene glycol dimethyl ether | 100 mL | COCCOC | C4H10O2
product | 9-phenylanthracene | C1(=CC=CC=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C20H14
